US05413999
Step 1: Preparation of 5(S)-((t-butyl-dimethyl-silyloxy)methyl)-3(R)-phenylmethyl-N-BOC-2-pyrrolidinone
A solution of 5(S)-((t-butyl-dimethyl-silyloxy)methyl)-N-BOC-2-pyrrolidinone (400 mg, 1.26 mmol) in 2 ml of THF was added to a precooled (-78° C.) 1M solution of lithium hexamethyldisilazide (1.3 ml) in 5 ml of THF. After 45 min, 0.15 ml of benzyl bromide (1.3 mmol) was added and the stirring was continued. After 5 h the reaction was worked up by pouring into a separatory funnel containing 30 ml of an aqueous 10% citric solution. The aqueous layer was extracted (2×30 ml EtOAc) which was backwashed with brine (50 ml) dried, filtered and concentrated to an oil. The residue was chromatographed (SiO2, 20% EtOAc/Hexane) to afford the product as an oil.

reactant | 5(S)-((t-butyl-dimethyl-silyloxy)methyl)-N-BOC-2-pyrrolidinone | 1.26 mmol, 400 mg | C(C)(C)(C)[Si](OC[C@@H]1CCC(N1C(=O)OC(C)(C)C)=O)(C)C | C16H31NO4Si
reactant | lithium hexamethyldisilazide | 1.3 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | benzyl bromide | 1.3 mmol, 0.15 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5(S)-((t-butyl-dimethyl-silyloxy)methyl)-3(R)-phenylmethyl-N-BOC-2-pyrrolidinone | C(C)(C)(C)[Si](OC[C@@H]1C[C@H](C(N1C(=O)OC(C)(C)C)=O)CC1=CC=CC=C1)(C)C | C23H37NO4Si
